US05633248
4,4-Diphenyl-5-mesylamino-1-(4-phenylpiperidino)pentane Hydrochloride
To a solution of 5-amino-4,4-diphenyl-1-(4-phenylpiperidino)pentane (0.4 g) and triethylamine (0.42 ml) in methylene chloride (15 ml) was added methanesulfonyl chloride (0.1 ml) dropwise under ice-cooling and stirring. After completion of dropwise addition, the mixture was returned to room temperature and stirred for another 3 hours. This reaction mixture was washed with water, dried over anhydrous sodium sulfate, and concentrated to dryness. The group was purified by silica gel column chromatography to provide the hydrochloride of the title compound (0.25 g) as colorless powder.

reactant | 5-amino-4,4-diphenyl-1-(4-phenylpiperidino)pentane | 0.4 g | NCC(CCCN1CCC(CC1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H34N2
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4,4-Diphenyl-5-mesylamino-1-(4-phenylpiperidino)pentane Hydrochloride | 0.25 g | Cl.C1(=CC=CC=C1)C(CCCN1CCC(CC1)C1=CC=CC=C1)(CNS(=O)(=O)C)C1=CC=CC=C1 | InChI=1S/C29H36N2O2S.ClH/c1-34(32,33)30-24-29(27-14-7-3-8-15-27,28-16-9-4-10-17-28)20-11-21-31-22-18-26(19-23-31)25-12-5-2-6-13-25;/h2-10,12-17,26,30H,11,18-24H2,1H3;1H
